US05041543
1-(3-Azido-2,3-dideoxy-5-O-hexadecanoyl-β-D-erythro-pentofuranosyl)-5-methyl-2(1H)-pyrimidinone
1-(3-Azido-2,3-dideoxy-β-D-erythro-pentofuranosyl)-5-methyl-2(1H)-pyrimidinone (0.25 g, 1 mMol) was dissolved in 11 mL anhydrous pyridine at 0° C. under a nitrogen atmosphere. Freshly distilled palmitoyl chloride (2.5 mL) was added all at once and the reaction stirred for 2 hrs. The solvents were evaporated away and the residue applied to a silica gel column eluted with 1:6 EtOAc/hexane (v/v). Appropriate fractions were combined and evaporated to give the title compound 0.14 g (0.29 mMol; 29%); mp =65°-67° C.; UV (nm) EtOH: λmax =228 (ε=13400), λmin =212 (ε=10300); 1H NMR (DMSO-d6) δ7.03(d, J=1.37 Hz, 1H, H6), 5.90(dd, J=1.76 Hz, 6.45 Hz, 1H, H1 '), 5.34(s, 1H, H4), 4.50(s, 1H, H3 '), 4.30-4.24(m, 1H, H4 '), 3.93-3.70(m, 2H, H5 '), 2.91(t, J=12.7 Hz, 2H, --C(O)CH2 -- ), 2.57-2.26(m, 2H, H2 '), 1.73(s, 3H, 5-CH3), 1.54-0.80(m, 29 H, palmitoyl).

reactant | 1-(3-Azido-2,3-dideoxy-β-D-erythro-pentofuranosyl)-5-methyl-2(1H)-pyrimidinone | 1 mMol, 0.25 g | N(=[N+]=[N-])[C@H]1C[C@@H](O[C@@H]1CO)N1C(N=CC(=C1)C)=O | C10H13N5O3
reactant | palmitoyl chloride | 2.5 mL | C(CCCCCCCCCCCCCCC)(=O)Cl | C16H31ClO
solvent | pyridine | 11 mL | N1=CC=CC=C1 | C5H5N
product | 1-(3-Azido-2,3-dideoxy-5-O-hexadecanoyl-β-D-erythro-pentofuranosyl)-5-methyl-2(1H)-pyrimidinone | 0.29 mMol, 0.14 g, 29% | N(=[N+]=[N-])[C@H]1C[C@@H](O[C@@H]1COC(CCCCCCCCCCCCCCC)=O)N1C(N=CC(=C1)C)=O | C26H43N5O4
